US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-phenylphenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) using the same procedure employed for Example 1 (2), but with 4-phenylphenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (0.9 mg, 3%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 4-phenylphenylisocyanate | C1(=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO
product | 1-benzylindolin-5-yl 4-phenylphenylcarbamate | C1(=CC=CC=C1)C1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C28H24N2O2
